US07902109B2
Palladium chloride (3.0 g; manufactured by Wako Pure Chemical Industry), 2.1 g of lithium chloride (manufactured by Wako Pure Chemical Industry) and 40 mL of methanol were charged in a flask made of glass where inner air was substituted with highly pure argon and were stirred for 4 hours. 1,5-Cyclooctadiene (2.31 g; manufactured by Wako Pure Chemical Industry) was added to the resulting homogeneous solution and the mixture was stirred for 12 hours. The resulting yellow solid was sucked to give 4.82 g of 1,5-cyclooctadiene dichloropalladium.

reactant | Palladium chloride | 3.0 g | [Pd](Cl)Cl
reactant | lithium chloride | 2.1 g | [Cl-].[Li+]
reactant | 1,5-Cyclooctadiene | 2.31 g | C1=CCCC=CCC1 | C8H12
solvent | methanol | 40 mL | CO | CH4O
product | 1,5-cyclooctadiene dichloropalladium | 4.82 g | Cl[Pd]Cl.C1=CCCC=CCC1 | InChI=1S/C8H12.2ClH.Pd/c1-2-4-6-8-7-5-3-1;;;/h1-2,7-8H,3-6H2;2*1H;/q;;;+2/p-2
